US04602028
5.56 g (16.0 mmol) of 2-[[3-(4-chlorophenyl)-1,2-benzisoxazol-6-yl]thio]-2-methylpropionic acid and 6 ml of 30% H2O2 were combined in 200 ml glacial acetic acid. The mixture was stirred at room temperature and monitored by TLC for the disappearance of starting material and the appearance of product. After about four hours the reaction was stopped by diluting with excess 3N HCl. The resulting precipitate was filtered and washed several times with cold toluene to yield white crystals, 3.38 g (58%) of 2-[[3-(4-chlorophenyl)-1,2-benzisoxazol-6-yl]sulfinyl]-2-methylpropionic acid, m.p. 184°-185° C.

reactant | 2-[[3-(4-chlorophenyl)-1,2-benzisoxazol-6-yl]thio]-2-methylpropionic acid | 16.0 mmol, 5.56 g | ClC1=CC=C(C=C1)C1=NOC2=C1C=CC(=C2)SC(C(=O)O)(C)C | C17H14ClNO3S
reactant | H2O2 | 6 ml | OO | H2O2
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | HCl | 3N | Cl | ClH
product | 2-[[3-(4-chlorophenyl)-1,2-benzisoxazol-6-yl]sulfinyl]-2-methylpropionic acid | 3.38 g, 58% | ClC1=CC=C(C=C1)C1=NOC2=C1C=CC(=C2)S(=O)C(C(=O)O)(C)C | C17H14ClNO4S
